US06492394B1
To a solution of 2(R)-(4-methoxy-2,3,6-trimethylbenzenesulfonylamino)-3(S)-hydroxybutyric acid (29.13 g, 87.9 mmol) in dimethylformamide (280 mL) at 0° C., was added potassium carbonate (72.9 g, 527 mmol) and a solution of 3,4-methylenedioxybenzyl chloride ((60 g, 170.8 mmol, 50% (w/w)) in methylene chloride. After 2 h, lithium iodide (5.88 g, 44 mmol) was added and the reaction mixture was warmed to rt. over 2 h. After 6 h, the reaction mixture was partitioned between ethyl acetate (600 mL) and water (250 mL). The organic layer was separated, dried over magnesium sulfate and concentrated in vacuo. The crude residue was chromatographed (300 g SiO2, 15% ethyl acetate-hexanes) to afford 2(R)-(4-methoxy-2,3,6-trimethylbenzenesulfonylamino)-3(S)-hydroxybutyric acid 3,4-methylenedioxybenzyl ester (40.4 g), a portion which was taken directly into the next reaction without further purification.

reactant | 2(R)-(4-methoxy-2,3,6-trimethylbenzenesulfonylamino)-3(S)-hydroxybutyric acid | 87.9 mmol, 29.13 g | COC1=C(C(=C(C(=C1)C)S(=O)(=O)N[C@@H](C(=O)O)[C@H](C)O)C)C | C14H21NO6S
reactant | potassium carbonate | 527 mmol, 72.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-methylenedioxybenzyl chloride | C1OC=2C=C(CCl)C=CC2O1 | C8H7ClO2
reactant | lithium iodide | 44 mmol, 5.88 g | [I-].[Li+]
solvent | dimethylformamide | 280 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2(R)-(4-methoxy-2,3,6-trimethylbenzenesulfonylamino)-3(S)-hydroxybutyric acid 3,4-methylenedioxybenzyl ester | 40.4 g | C1OC=2C=C(COC([C@@H]([C@H](C)O)NS(=O)(=O)C3=C(C(=C(C=C3C)OC)C)C)=O)C=CC2O1 | C22H27NO8S
